Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I don't know why I'm here." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ and Dr. ___ initial 
consultation note dated ___ and Dr. ___ 
admission note dated ___. 
. 
Briefly, this is a ___ year old single Caucasian man, recently 
diagnosed with ADHD and schizophrenia, cannabis use disorder, 
who presented to ___ ED with his mother due to concerns for 
bizarre behavior and paranoia over the past 3 months. 
. 
On initial interview, the patient, who was noted to be a limited 
historian, was noted to be preoccupied with having a "lump" on 
the right side of his neck, which had noticed for several 
months, for which eh thought may be related to being under 
surveillance by the government. He shared with the consultation 
liaison team that he had been preoccupied with "aliens and 
stuff, but when you talk about those things people think you are 
crazy." Collateral from his parents revealed a pattern of 
increasing paranoia and preoccupation with conspiracies, 
increasing cannabis use, and worrisome behaviors at home (having 
open flames around the house when others were not home). 
. 
ED Course: Patient attempted to elope from the ED and required 
chemical restraint with Haldol 5 mg IM/Ativan 2 mg IM. 
. 
On my interview with Mr. ___, who was a limited 
historian, he stated he has no idea why he is in a psychiatric 
hospital. Reported he came to ___ with his mother "to search 
for something in my neck and now I'm here to be psych tested... 
I don't know why I'm not in x-ray or CAT scan instead." Patient 
admitted his mother has been worried "because I left the oven 
on, which is comical in my opinion? How many times do people 
leave the oven on?" Patient did admit that he had been lighting 
candles and fires in his house because it has been cold out 
lately, but stated his mother's concern 'doesn't make sense." 
. 
Although a clear time frame was difficult to obtain from the 
patient, he stated that he had recently withdrawn from ___, where 
he was studying ___ because his mother lost 
her job and he felt his parents could no longer pay for tuition. 
Patient reported that he has been living with his two mothers, 
and states this has been "Fine" although his parents do not 
think things are going well. States he spends his time "doing a 
lot of research and investigating into Bitcoin, learning 
programming around cryptocurrency." Admits that he has been 
recently "stressed" with current events, "I don't like evil... 
it stresses me out." When asked what specifically was stressing 
him out, he stated, "I don't want to talk about that." Patient 
stated that he does feel as if he has been able to predict the 
future, "I saw the war we're getting into with ___, and 
I see AI taking over people's job." Patient was reluctant to 
discuss these ideas in depth, stating, "I know what I say could 
keep me in the hospital." Admitted that he thought the lump in 
his neck could be a chip, "but it could also be a tumor or 
cancer... I've been collecting research on all the 
possibilities." 
. 
Patient denied hearing voices, but described hypersensitivity to 
sounds, stating can hear the water running in the background, 
"it's prominent to me." Denied visual hallucinations. Denied 
thought insertion or broadcasting but stated that he does 
consider himself spiritual, "I pray to God and he tells me what 
to do... he told me to give my iPad to my foster brother." 
Denies feeling depressed or sad but stated he does get "caught 
up" when he thinks of the things that are going on. 
. 
Mr. ___ reported he has been sleeping "fine," about 8 
hours per night, denied difficulties with interest, stating he 
is more interested in things like cryptocurrency because he has 
more time on his hands. Denied changes in energy or 
concentration. Denied thoughts of suicide or wanting to harm 
others. Denied
paranoia. Denied history of manic symptoms including decreased 
need for sleep, grandiosity, increased energy, impulsivity. 

 
Past Medical History:
Past psychiatric history: Per patient, OMR 
- Diagnoses: schizophrenia, ADHD 
- Hospitalizations: none 
- SA/SIB: denies/denies
- Psychiatrist: unclear, patient reports ___, NP 
- Therapist: none 
- Medication Trials: Abilify, Vyvanse 
.
Past medical history: Denies 
PCP: Dr. ___ in ___ 

 
Social History:
Substance use history:
- Alcohol: drinks socially on the weekends, denies blackouts 
- Illicits: Patient reports smoking 1 gram per week since 
dropping out of college. Denies other illicit drug use 
- Tobacco: denies 
. 
Personal and Social History: Per patient: Born and raised in ___ 
___ to his mothers and was conceived via per donor. 
Patient reported he moved to ___ with his parents when he was 
___ years old. States his mother ___ is "nice" and reports he 
is close to her. States ___ used to work for ___ managing 
___ but recently lost her job. Patient described his other 
mother,
___ as "nice" as well, and states she works for ___ in 
___. Patient reported a good childhood, setting he attended 
___ where he did well academically and played 
basketball. Stated he chose to attend ___ because 
it was nearby and was studying ___. Reported 
college has been challenging and competitive, reporting a GPA of 
approximately 2.5. Patient reported he dropped out of ___ in 
___, stating he thought his parents could not afford 
tuition anymore after ___ lost her job (although unclear why 
he would drop out at the end of the semester). Currently he 
lives at home with his mothers and states his parents rent out a 
room to a ___ student who studies taxes. Since then he has not 
been working.
Has had girlfriends in the past, but is currently single. Denies 
history of legal issues, access to guns. Of note, has worked in 
IT in the past. 

 
Family History:
Family psychiatric history:
- Diagnoses: denies 
- Suicides: denies 
- Addictions: denies 

 
Physical Exam:
EXAM:
Vital Signs:
-T 98.7, BP 118/60, HR 105, RR 18, SpO2 97%RA

General:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck. R cervical lymphadenopathy 
notable
on palpation. No scleral icterus
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout
-Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales
-Abdominal: Non-distended, bowel sounds normoactive. No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness
-Extremities: Warm and well-perfused. No edema of the limbs
-Skin: No rashes or lesions noted

Neurological:
-Cranial Nerves:
     -I: Olfaction not tested
     -II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. VFF to confrontation
     -III, IV, VI: EOMI without nystagmus
     -V: Facial sensation intact to light touch in all
distributions
     -VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
     -VIII: Hearing intact to finger rub bilaterally
     -IX, X: Palate elevates symmetrically
     -XI: ___ strength in trapezii and SCM bilaterally
     -XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
-Coordination: Normal on finger to nose test, no intention 
tremor
noted
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg absent

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb - 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: $1.75 = 7 quarters
-Abstraction: "Don't judge a book by its cover" = "Read the book
before you judge what it is"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ yo white M appearing stated age, well groomed
with good hygiene, wearing hospital gown, appears tired, in no
apparent distress
-Behavior: Sitting on chair, intermittent eye contact, no
psychomotor agitation or retardation
-Attitude: Guarded, superficially cooperative but gives one word
answers and says "no" to most answers, kicks feet up and crosses
legs in front of interviewer
-Mood: "I'm just tired"
-Affect: Mood-congruent, blunted
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
     - Safety: Denies SI/HI   
     - Delusions: No evidence of paranoia per patient's answers
but difficult to fully assess as he remains guarded and answers
very curtly, denying most symptoms  
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
-Insight: Limited
-Judgment: Poor

Discharge Examination: 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "okay" 
A: slightly anxious, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Pertinent Results:
___ 10:15PM URINE  COLOR-Yellow APPEAR-Cloudy* SP 
___
___ 10:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 10:15PM URINE  RBC-0 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 10:15PM URINE  AMORPH-MOD*
___ 04:02PM URINE  HOURS-RANDOM
___ 04:02PM URINE  HOURS-RANDOM
___ 04:02PM URINE  HOURS-RANDOM
___ 04:02PM URINE  UHOLD-HOLD
___ 04:02PM URINE  GR HOLD-HOLD
___ 04:02PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:32PM   GLUCOSE-77 UREA N-18 CREAT-0.9 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-29 ANION GAP-11
___ 01:32PM   estGFR-Using this
___ 01:32PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:32PM   WBC-7.2 RBC-5.34 HGB-16.1 HCT-47.4 MCV-89 
MCH-30.1 MCHC-34.0 RDW-12.1 RDWSD-39.3
___ 01:32PM   NEUTS-53.7 ___ MONOS-8.1 EOS-4.7 
BASOS-0.7 IM ___ AbsNeut-3.86 AbsLymp-2.33 AbsMono-0.58 
AbsEos-0.34 AbsBaso-0.05
___ 01:32PM   PLT COUNT-248
 
Brief Hospital Course:
This is a ___ year old single Caucasian man, recently diagnosed 
with ADHD and schizophrenia, cannabis use disorder, who 
presented to ___ ED with his mother due to concerns for 
bizarre behavior and paranoia over the past 3 months. Review of 
OMR
reveals concern for underlying psychosis in the setting of 
cannabis use with apparent neuropsych testing revealing 
schizophrenia and ADHD with at least 3 months of bizarre 
behaviors and paranoia with patient notably delusional, paranoid 
in the emergency department, attempting to elope from the ED 
after learning he would be hospitalized. 
. 
In terms of diagnosis, given his young age and significant 
cannabis use, a definitive diagnosis is quite difficult at this 
time and differential diagnosis is broad. Differential diagnosis 
includes primary psychotic disorder (schizophrenia), substance 
induced psychosis, affective psychosis (although no clear 
history of mania or depression in the past). Given young age and 
relatively good health, unremarkable laboratory examination, 
psychosis secondary to an underlying medical condition is 
further down on the differential diagnosis. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, he initially declined to sign a conditional 
voluntary form, but did sign a CV, which was accepted. He 
maintained his safety throughout his admission on 15 minute 
checks and did not require physical or chemical restraints. 
. 
#. Psychosis: as noted above
- Patient was initially isolative to room, but later became 
compliant in attending groups where he participated 
appropriately and meeting with his treatment team. 
- After discussion of the risks and benefits, we continued 
Abilify, which was initially titrated to 10 mg po qd and 
ultimately 15 mg po qd. He tolerated this well with no 
complaints of side effects. We also discussed the risks and 
benefits of converting to Abilify Maintena, which the patient 
and his parents were amenable to to increase likelihood of 
compliance, and Mr. ___ was in agreement to this. He 
received his first dose of Abilify Maintena on ___ without 
complication with plan to continue Abilify 15 mg po qd x14 days 
and then stop. His next dose of Abilify Maintena is scheduled 
for ___ with his outpatient psychopharmacologist
- For periods of anxiety and irritability, we started Ativan 0.5 
mg po q4h prn with good result and without excessive sedation. 
This was continued at time of discharge at 0.5 mg po bid prn 
anxiety with recommendation to taper off as tolerated 
- By time of discharge, patient was noted to be consistently 
denying SI/HI, AVH, paranoia and delusions. He was also noted to 
be able to attend to his ADL's independently and without 
difficulty. Although he demonstrated some limited insight into 
the circumstances that led to his admission, minimizing his 
paranoia, he was amenable to following up with outpatient 
providers, including ___ partial program, a referral to the PREP 
program, and referral to an outpatient psychiatrist/therapist. 
- Of note, the treatment team worked closely with his parents, 
who were very supportive and involved in Mr. ___ care. 
We discussed diagnosis and treatment recommendations. Parents 
agreed that the patient's condition had improved at time of 
discharge and were in agreement with the discharge plan. 
. 
#. Cannabis use disorder: as noted above 
- Discussed the pros and cons of his cannabis use and Mr. 
___ received extensive education on the deleterious 
effects of cannabis use on his mental health. He stated he was 
motivated to abstain from cannabis use as well as other illicit 
substance use at this time. 
.
#. Medical: no acute medical issues during this hospitalization 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 2 mg PO DAILY 
2. Vyvanse (lisdexamfetamine) 10 mg oral DAILY 

 
Discharge Medications:
1.  ARIPiprazole Extended Release 400 mg IM ONCE Duration: 1 
Dose 
Last dose received on ___.   
2.  LORazepam 0.5 mg PO Q4H:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth two times per day Disp 
#*14 Tablet Refills:*0 
3.  ARIPiprazole 15 mg PO DAILY 
RX *aripiprazole 15 mg 1 tablet(s) by mouth one time daily in 
the morning Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder 
Cannabis use disorder 

 
Discharge Condition:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'okay' 
A: slightly anxious, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___